US09278938B2
Under nitrogen stream, to (1R,2S,3R)-1-(2-sulfanyl-1H-imidazol-4-yl)butane-1,2,3,4-tetraol (10 g, 45.4 mmol) was added water (40 mL), and to the obtained suspension was added dropwise an aqueous diluted solution of 30% aqueous hydrogen peroxide (15.4 g, 136 mmol, 3.0 equivalents) in water (40 mL) over 10 min at 17 to 43° C. (the compound was gradually dissolved to give an uniform pale-yellow solution). The reaction mixture was stirred at 24 to 36° C. for 4 hr, and barium carbonate (27 g, 136 mmol, 3.0 equivalents) was added over 5 min at 24 to 26° C. (neutralized to pH 7), and the mixture was stirred at 25 to 26° C. for 1 hr and 20 min. The insoluble material was filtered off, and washed with water (40 mL). To the filtrate and washing was added sodium sulfite (11.4 g, 90.8 mmol, 2.0 equivalents) over 5 min at 20 to 32° C. The obtained aqueous solution was stirred at 26 to 32° C. for 1 hr and 30 min to give an aqueous solution of (1R,2S,3R)-1-(1H-imidazol-4-yl)butane-1,2,3,4-tetraol. To this aqueous solution was added sodium periodate (29.1 g, 136 mmol, 3.0 equivalents) over 10 min at 12 to 30° C., and the mixture was stirred at 27 to 30° C. for 1 hr and 30 min. To the reaction mixture was added sodium periodate (2.91 g, 13.6 mmol, 0.3 equivalents) at 27 to 30° C., and the mixture was stirred at 27 to 30° C. for 2 hr. The insoluble material was filtered off, and washed four times with water (10 mL). To the filtrate and washing was added methanol (500 mL), and the inorganic salt was filtered off, and washed twice with methanol (50 mL). To the filtrate and washing was added activated carbon (3 g, SHIRASAGI A, trade name), and the mixture was stirred at room temperature for 1 hr. The insoluble material was filtered off, and washed with methanol. The filtrate and washing were concentrated under reduced pressure to give a crude compound (9.37 g). To the crude compound were added water (3 mL) and seed crystals for crystallization, and the mixture was stirred at room temperature for 24 hr, and then for 2 hr under ice-cooling. The crystals were collected by filtration, washed with cooled water (1 mL), and vacuum-dried (50° C.) to a constant amount to give 4(5)-formylimidazole (2.35 g). yield 54%.

reactant | (1R,2S,3R)-1-(2-sulfanyl-1H-imidazol-4-yl)butane-1,2,3,4-tetraol | 45.4 mmol, 10 g | SC=1NC=C(N1)[C@H]([C@@H]([C@@H](CO)O)O)O | C7H12N2O4S
reactant | hydrogen peroxide | 136 mmol, 15.4 g, 3.0 equivalents | OO | H2O2
reactant | barium carbonate | 136 mmol, 27 g, 3.0 equivalents | C([O-])([O-])=O.[Ba+2]
reactant | sodium sulfite | 90.8 mmol, 11.4 g, 2.0 equivalents | S(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 40 mL | O | H2O
solvent | water | 40 mL | O | H2O
product | (1R,2S,3R)-1-(1H-imidazol-4-yl)butane-1,2,3,4-tetraol | N1C=NC(=C1)[C@H]([C@@H]([C@@H](CO)O)O)O | C7H12N2O4
